US05547606
(Preparation of trans-4-(2-(trans-4-(p-trifluoromethylphenyl) cyclohexyl) ethyl)-1-n-propyl-1-silacyclohexane)
The preparation was conducted in the same manner as in Example 6, except that 8.2 g (21 mmol) of 1-chloro-4-(2-(trans-4-(p-trifluoromethylphenyl)cyclohexyl)ethyl)-1-silacyclohexane and n-propylzinc chloride were used instead of 7.0 g (21 mmol) of 1-chloro-4-(2-(trans-4-(p-fluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane and n-pentylzinc chloride.

reactant | 1-chloro-4-(2-(trans-4-(p-trifluoromethylphenyl)cyclohexyl)ethyl)-1-silacyclohexane | 21 mmol, 8.2 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(F)(F)F | C20H28ClF3Si
reactant | n-propylzinc chloride | [Cl-].C(CC)[Zn+]
reactant | 1-chloro-4-(2-(trans-4-(p-fluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane | 21 mmol, 7.0 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C19H28ClFSi
reactant | n-pentylzinc chloride | [Cl-].C(CCCC)[Zn+]
product | trans-4-(2-(trans-4-(p-trifluoromethylphenyl) cyclohexyl) ethyl)-1-n-propyl-1-silacyclohexane | FC(C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[Si@H](CC1)CCC)(F)F | C23H35F3Si
